2138-03-13 07:26:00 Physician Resident Progress Note
Chief Complaint: AMS, ETOH withdrawl
   24 Hour Events:
 INVASIVE VENTILATION - START [**2138-3-12**] 09:25 PM
 FEVER - 101.2
F - [**2138-3-13**] 04:00 AM
   o/n spiked fever to 101.2, ordered sputum cx and gave tylenol through
   OGT
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-12**] 08:00 PM
   Ciprofloxacin - [**2138-3-13**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**3-10**] intubation and sedation
   Flowsheet Data as of  [**2138-3-13**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 107 (98 - 110) bpm
   BP: 117/73(83) {10/58(67) - 118/73(84)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  6,123 mL
                                                                  2,347 mL
   PO:
             TF:
   IVF:
                                                                  1,123 mL
                                                                  2,347 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    550 mL
   Urine:
                                                                    160 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,763 mL
                                                                  1,797 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 210 (210 - 210) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube.  Crusting on
   eyelids with sign exudate.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   129 K/uL
   6.4 g/dL
   72 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.0 mEq/L
   4 mg/dL
   105 mEq/L
   145 mEq/L
   20.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2138-3-12**]  10:22 PM
                             [**2138-3-13**]  04:15 AM
   WBC
   6.5
   Hct
   20.7
   Plt
   129
   Cr
   0.7
   0.7
   Glucose
   84
   72
   Other labs: PT / PTT / INR:14.9/30.6/1.3, ALT / AST:81/318, Alk Phos /
   T Bili:434/9.3, Amylase / Lipase:87/69, Lactic Acid:2.1 mmol/L,
   Albumin:2.4 g/dL, LDH:583 IU/L, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment: This is a 41 year-old female with a history of ETOH
   abuse/ETOH withdrawal, cirrhosis who presents with ETOH withdrawal and
   fevers
   Plan:
   # ETOH withdrawal: patient with significant ETOH history; has h/o
   withdrawal.  no seizures.  Received large amount of valium in ED for
   CIWAs>20.  Eventually required intubation for airway protection.
   Started on versed/fentanyl for sedation
   - wean versed/fentanyl today as tolerated. If pt able to be extubated
   after wean, will transition to CIWA scale with Valium
   - SW consult once awake- on board today for ? safety and issues with
   pt
s live-in boyfriend
   - folate/thiamine/MVI- banana bag now then transition to PO
   # AMS: likely in the setting of ETOH withdrawal and benzos.  Requiring
   intubation.  Could also be hepatic encephalopathy.  Also, infection
   with + UA. tox screen otherwise negative, no other evident sources of
   infxn- minimal ascites so unlikely SBP, no PNA on CXR.
   -Wean PS as tolerated today while weaning sedation as tolerated
   - lactulose TID; no asterixis noted on exam
   - treat UTI with Cipro for now- Vanco d/c
   - no PV thrombosis to be concerned for acute LFT abnormality
   # Fevers: source so far likely urine with +UA.  Cultures pending. CXR
   negative.  no ascites to be concerned for SBP.  LFTs elevated; but no
   e/o cholecystitis or cholangitis.
   - monitor fever curve
   - cont cipro for now- Vanco d/c
d this am
   - pan cultures pending
   - check hepatitis panel
   - consider HIV when awake
   # Cirrhosis: unclear on complications thus far but BIli elevated at 9
   today. INR [**2-9**] . Cr 0.7. ? etiology- likely EtOH but also ? if
   supraimposed hepatitis infxn.  Also ? acute alcoholic hepatitis as
   well. Discriminant fx today 16 so no need for steroids today
   - trend LFTs
   - call PCPs office for records- ? varices.
   - guaiac all stools
   - check hep panel
   # Macrocytic Anemia: unclear etiology; could be GI bleed, other causes
   are B12/Folate def or ETOH BM suppresion; could be iron def. However,
   folate and B12 nl levels.  Iron nl and ferritin up so unlikely iron
   deficiency
   - guaiac all stools
   - T&S sent. Would like to transfuse 2 units PRBCs today for HCT 20.7.
   Unclear who is next of [**Doctor First Name **] to make medical decisions so will need to
   get consent from either adult dtr or sister.
   # Conjuctivitis: likely viral; but cannot r/o bacterial. significant
   injection and crusting
   - artificial tears QID
   - erthyromycin ointment QID x 5 days
     # FEN:  NPO for now; IVFs to replete
   # Access: 2 18G, 1 16G; hold off on CVL placement for now
   # PPx: hep sc
   # Code: FULL
   # Dispo:  ICU
   # Comm:  Sister: [**Name (NI) 3870**] [**Name (NI) **] [**0-0-**] (H) [**Telephone/Fax (1) 3871**] (C). Somewhat
   unclear whom next of [**Doctor First Name **] is. Unknown if pt has living  parents, has an
   18yo child. Sisters also involved.
   ICU Care
   Nutrition: NPO for now given possible extubation later today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2138-3-12**] 09:42 PM
   16 Gauge - [**2138-3-12**] 09:43 PM
   18 Gauge - [**2138-3-12**] 09:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2138-03-13 09:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   EtOH Withdrawl
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2138-3-12**] 09:25 PM
 FEVER - 101.2
F - [**2138-3-13**] 04:00 AM---cultures sent
   -Thiamine/Flolate/B12 given overnight
   -Lactulose given by OGT
   -Versed weaned to 5 mg/hr
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-3-13**] 12:00 AM
   Vancomycin - [**2138-3-13**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-3-13**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 104 (98 - 110) bpm
   BP: 103/66(75) {10/58(67) - 118/73(84)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  6,123 mL
                                                                  2,984 mL
   PO:
             TF:
   IVF:
                                                                  1,123 mL
                                                                  2,984 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    750 mL
   Urine:
                                                                    160 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,763 mL
                                                                  2,234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 210 (210 - 210) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, HSM is palpable
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.4 g/dL
   129 K/uL
   72 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.0 mEq/L
   4 mg/dL
   105 mEq/L
   145 mEq/L
   20.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2138-3-12**]  10:22 PM
                             [**2138-3-13**]  04:15 AM
   WBC
   6.5
   Hct
   20.7
   Plt
   129
   Cr
   0.7
   0.7
   Glucose
   84
   72
   Other labs: PT / PTT / INR:14.9/30.6/1.3, ALT / AST:81/318, Alk Phos /
   T Bili:434/9.3, Amylase / Lipase:87/69, Lactic Acid:2.1 mmol/L,
   Albumin:2.4 g/dL, LDH:583 IU/L, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Imaging: RUQ U/S--no cholecystitis, patent PV
   CXR--Mild right lower/RM lobe opacity
   Assessment and Plan
   41 yo female with history of ETOH abuse/Benzo abuse who presented to
   PCP yesterday with symptoms of withdrawl and no EtOH consumption for
   >12 hours.  Patient to ED and patient given Valium 100mg and with
   increased sedation patient with inability to maintain adequate airway
   patency patient intubated and transfer to [**Hospital Unit Name 10**] for further care.
   Importantly patient has possible history of cirrhosis noted in the
   outside records.
   1)Respiratory Failure--Patient with altered mental status in the
   setting of likely EtOH withdrawl which may well be in the setting of
   underlying cirrhosis which may complicate establishment of baseline
   mental status with high dose benzodiazepines.
   -Move to PSV
12/5 to keep Ve-[**10-16**],  and RR-16
   -Wean sedation
   -Lactulose
   -Will look to wean sedation today as primary insult does apppear to be
   altered mental status as primary issue
she does have mild RLL
   infiltrate evolving following intubation
   2)EtOH Abuse/ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS,
   SEIZURES)-
   -Thiamine/Flote/B12
   -Wean Fentanyl to off
   -Versed to continue as background medication during wean
   -Will check Amonia for possible evidence to suggest hepatic
   encephaolopathy
   -Replete K+
   3)Anemia-Is with significant anemia
present at admission
is with
   macrocytosis
   -Will check B12/Folate and is likely EtOH related
they have returned
   today as normal of note
   -OB stool
   -1 unit PRBC today
   4)Aspiration Pneumonitis/Urinary Tract Infection-
   -Vanco/Cipro in place
for possible RML infiltrate and urinary tract
   infection
   -Follow up sputum culture if obtained but is most likely aspiration
   pneumonitis
   5)Transaminitis-Possibly EtOH hepatitis but patient with strong
   findings of cirrhosis and in the absence of EtOH patient may likely
   have cirrhosis plus modest elevations in TA
   -INR ressuring for preserved hepatic synthetic function but albumin is
   2.4--trace ascites only
   -Significant elevation in bilirubin and modest elevation in
   transaminitis arguing against toxic or ischemic insult
   -Hep pannel sent, follow transaminases
   -Continue Lactulose
   -Will need OSH  records from [**Hospital1 966**]
   -Follow up of U/S findings
   ICU Care
   Nutrition: npo
move to TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-3-12**] 09:42 PM
   16 Gauge - [**2138-3-12**] 09:43 PM
   18 Gauge - [**2138-3-12**] 09:43 PM
   Prophylaxis:
   DVT: Hep sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-03-14 07:59:00 Physician Resident Progress Note
Chief Complaint: AMS, EtOH withdrawl
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-3-13**] 03:20 PM
   Extubated in a.m. without difficulty.  Transfused 2units PRBC with
   appropriate rise in Hct from 20->27.  Continued on CIWA scale.  Thought
   to be withdrawing per nurses but appeared stable w/ q1-2h diazepam
   doses.  Sister visited and said that Mrs. [**Known lastname **] has a drinking problem
   and a "liver problem," had dilated cardiomyopathy in the setting of
   pregnancy, and that they would be pressing charges against her
   boyfriend.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-13**] 08:00 AM
   Ciprofloxacin - [**2138-3-13**] 11:53 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2138-3-13**] 06:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies anxiety, pain. Wants to go home
   Flowsheet Data as of  [**2138-3-14**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 102 (93 - 120) bpm
   BP: 115/77(85) {98/56(65) - 137/85(92)} mmHg
   RR: 43 (11 - 49) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  5,752 mL
                                                                    750 mL
   PO:
                                                                    800 mL
                                                                    750 mL
   TF:
   IVF:
                                                                  4,222 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,300 mL
                                                                    630 mL
   Urine:
                                                                  2,300 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,452 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 515 (515 - 660) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/48/125/30/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   134 K/uL
   8.9 g/dL
   68 mg/dL
   0.7 mg/dL
   30 mEq/L
   2.3 mEq/L
   2 mg/dL
   102 mEq/L
   139 mEq/L
   28.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2138-3-12**]  10:22 PM
                             [**2138-3-13**]  04:15 AM
                             [**2138-3-13**]  09:09 AM
                             [**2138-3-13**]  01:49 PM
                             [**2138-3-13**]  02:15 PM
                             [**2138-3-13**]  03:00 PM
                             [**2138-3-13**]  03:14 PM
                             [**2138-3-14**]  04:19 AM
   WBC
   6.5
   6.8
   Hct
   20.7
   27.4
   28.5
   Plt
   129
   134
   Cr
   0.7
   0.7
   0.6
   0.7
   TCO2
   33
   33
   31
   32
   Glucose
   84
   72
   95
   68
   Other labs: PT / PTT / INR:15.1/30.7/1.3, ALT / AST:68/249, Alk Phos /
   T Bili:415/11.8, Amylase / Lipase:87/69, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:561 IU/L, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment: This is a 41 year-old female with a history of ETOH
   abuse/ETOH withdrawal, cirrhosis who presents with ETOH withdrawal and
   fevers
   Plan:
   # ETOH withdrawal: patient with significant ETOH history; has h/o
   withdrawal.  no seizures.  Received large amount of valium in ED for
   CIWAs>20.  Eventually required intubation for airway protection.
   Started on versed/fentanyl for sedation
   - wean versed/fentanyl today as tolerated. If pt able to be extubated
   after wean, will transition to CIWA scale with Valium
   - SW consult once awake- on board today for ? safety and issues with
   pt
s live-in boyfriend
   - folate/thiamine/MVI- banana bag now then transition to PO
   # AMS: likely in the setting of ETOH withdrawal and benzos.  Requiring
   intubation.  Could also be hepatic encephalopathy.  Also, infection
   with + UA. tox screen otherwise negative, no other evident sources of
   infxn- minimal ascites so unlikely SBP, no PNA on CXR.
   -Wean PS as tolerated today while weaning sedation as tolerated
   - lactulose TID; no asterixis noted on exam
   - treat UTI with Cipro for now- Vanco d/c
   - no PV thrombosis to be concerned for acute LFT abnormality
   # Fevers: source so far likely urine with +UA.  Cultures pending. CXR
   negative.  no ascites to be concerned for SBP.  LFTs elevated; but no
   e/o cholecystitis or cholangitis.
   - monitor fever curve
   - cont cipro for now- Vanco d/c
d this am
   - pan cultures pending
   - check hepatitis panel
   - consider HIV when awake
   # Cirrhosis: unclear on complications thus far but BIli elevated at 9
   today. INR [**2-9**] . Cr 0.7. ? etiology- likely EtOH but also ? if
   supraimposed hepatitis infxn.  Also ? acute alcoholic hepatitis as
   well. Discriminant fx today 16 so no need for steroids today
   - trend LFTs
   - call PCPs office for records- ? varices.
   - guaiac all stools
   - check hep panel
   # Macrocytic Anemia: unclear etiology; could be GI bleed, other causes
   are B12/Folate def or ETOH BM suppresion; could be iron def. However,
   folate and B12 nl levels.  Iron nl and ferritin up so unlikely iron
   deficiency
   - guaiac all stools
   - T&S sent. Would like to transfuse 2 units PRBCs today for HCT 20.7.
   Unclear who is next of [**Doctor First Name **] to make medical decisions so will need to
   get consent from either adult dtr or sister.
   # Conjuctivitis: likely viral; but cannot r/o bacterial. significant
   injection and crusting
   - artificial tears QID
   - erthyromycin ointment QID x 5 days
     # FEN:  NPO for now; IVFs to replete
   # Access: 2 18G, 1 16G; hold off on CVL placement for now
   # PPx: hep sc
   # Code: FULL
   # Dispo:  ICU
   # Comm:  Sister: [**Name (NI) 3870**] [**Name (NI) **] [**0-0-**] (H) [**Telephone/Fax (1) 3871**] (C). Somewhat
   unclear whom next of [**Doctor First Name **] is. Unknown if pt has living  parents, has an
   18yo child. Sisters also involved.
   ICU Care
   Nutrition: full liquids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2138-3-12**] 09:42 PM
   16 Gauge - [**2138-3-12**] 09:43 PM
   18 Gauge - [**2138-3-12**] 09:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2138-03-14 10:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   EtOH Withdrawl
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-3-13**] 03:20 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-13**] 08:00 AM
   Ciprofloxacin - [**2138-3-13**] 11:53 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2138-3-13**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Gastrointestinal: Diarrhea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2138-3-14**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.9
   HR: 103 (93 - 120) bpm
   BP: 128/38(60) {98/38(60) - 137/85(94)} mmHg
   RR: 31 (11 - 49) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  5,752 mL
                                                                    750 mL
   PO:
                                                                    800 mL
                                                                    750 mL
   TF:
   IVF:
                                                                  4,222 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,300 mL
                                                                    895 mL
   Urine:
                                                                  2,300 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,452 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 515 (515 - 660) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.42/48/125/30/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   134 K/uL
   68 mg/dL
   0.7 mg/dL
   30 mEq/L
   2.3 mEq/L
   2 mg/dL
   102 mEq/L
   139 mEq/L
   28.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2138-3-12**]  10:22 PM
                             [**2138-3-13**]  04:15 AM
                             [**2138-3-13**]  09:09 AM
                             [**2138-3-13**]  01:49 PM
                             [**2138-3-13**]  02:15 PM
                             [**2138-3-13**]  03:00 PM
                             [**2138-3-13**]  03:14 PM
                             [**2138-3-14**]  04:19 AM
   WBC
   6.5
   6.8
   Hct
   20.7
   27.4
   28.5
   Plt
   129
   134
   Cr
   0.7
   0.7
   0.6
   0.7
   TCO2
   33
   33
   31
   32
   Glucose
   84
   72
   95
   68
   Other labs: PT / PTT / INR:15.1/30.7/1.3, ALT / AST:68/249, Alk Phos /
   T Bili:415/11.8, Amylase / Lipase:87/69, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:561 IU/L, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR--No focal infiltrates, minimal evidence of infiltrates
   Assessment and Plan
   41 yo female with h/o EtOH abuse and now admitted with EtOH withdrawl
   and agitation resulting in brief need for venilatory support.  She did
   have lactulose given for possible hepatic encephaolopathy and have
   moved rapidly to high volume stool output.
   1)respiratory Failure--patient extubated without event
   2)CIRRHOSIS OF LIVER, ALCOHOLIC-Will need to clarify history
   3)H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -MVI/Thiamine/B12
   -Valium 10mg q 2 hours
   Urinary Tract Infection-
   -Cpiro
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-3-12**] 09:42 PM
   16 Gauge - [**2138-3-12**] 09:43 PM
   18 Gauge - [**2138-3-12**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To Floor
   Total time spent: 35 minutes

2138-03-15 08:22:00 Physician Resident Progress Note
Chief Complaint: AMS, ETOH withdrawl
   24 Hour Events:
   - Pt states saw GI at a community health ctr and was told she had
   cirrhosis. Does not know any complications of this she has but was put
   on a few meds ([**Location (un) 593**] in [**Location (un) 1294**] where she said she got meds
   doesn't have a record of her) which she didn't take. Thinks she had an
   EGD and was told she may have "lots of veins". Pt overall unaware of
   her medical conditions and non-compliant with meds
   -Had persistent agitation and hallucinations.  Very few physiologic
   indications of withdrawal (no vital sign derangements)but continued to
   need Q2hr diazepam (range increased from [**6-15**] to 10-20mg)
   -Had severe watery diarrhea that began to resolve after lactulose was
   stopped
   -Urine culture was E Coli resistant to cipro so switched to TMP sulfa
   (anticipate three day course)
   -O/n CIWA ~13- getting valium Q 2hrs
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-13**] 08:00 AM
   Ciprofloxacin - [**2138-3-14**] 12:01 PM
   Bactrim (SMX/TMP) - [**2138-3-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2138-3-14**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-3-15**] 05:56 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, Emesis
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2138-3-15**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 109 (95 - 114) bpm
   BP: 124/82(91) {96/38(60) - 135/93(102)} mmHg
   RR: 44 (23 - 48) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  3,000 mL
                                                                    200 mL
   PO:
                                                                  3,000 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                  1,750 mL
   Urine:
                                                                  2,035 mL
                                                                  1,750 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                    -35 mL
                                                                 -1,550 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   158 K/uL
   9.1 g/dL
   78 mg/dL
   0.6 mg/dL
   28 mEq/L
   2.4 mEq/L
   2 mg/dL
   101 mEq/L
   140 mEq/L
   28.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2138-3-12**]  10:22 PM
                             [**2138-3-13**]  04:15 AM
                             [**2138-3-13**]  09:09 AM
                             [**2138-3-13**]  01:49 PM
                             [**2138-3-13**]  02:15 PM
                             [**2138-3-13**]  03:00 PM
                             [**2138-3-13**]  03:14 PM
                             [**2138-3-14**]  04:19 AM
                             [**2138-3-15**]  04:36 AM
   WBC
   6.5
   6.8
   7.4
   Hct
   20.7
   27.4
   28.5
   28.1
   Plt
   129
   134
   158
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   TCO2
   33
   33
   31
   32
   Glucose
   84
   72
   95
   68
   78
   Other labs: PT / PTT / INR:15.1/30.7/1.3, ALT / AST:65/181, Alk Phos /
   T Bili:396/10.9, Amylase / Lipase:87/69, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:535 IU/L, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment: This is a 41 year-old female with a history of ETOH
   abuse/ETOH withdrawal, cirrhosis who presents with ETOH withdrawal and
   fevers
    Plan:
   # ETOH withdrawal: patient with significant ETOH history; has h/o
   withdrawal.  no seizures.  Received large amount of valium in ED for
   CIWAs>20.  Eventually required intubation [**3-12**] for airway protection.
   Extubated [**3-13**]
   - CIWA Q 2hrs for now- is requiring 20mg Valium Q 2hrs at this time for
   CIWA
s around 13
   - SW on board
   - folate/thiamine/MVI PO
   # AMS: likely in the setting of ETOH withdrawal and benzos.  Requiring
   intubation.  Unlikely  hepatic encephalopathy.  Also, infection with +
   UA. tox screen otherwise negative, no other evident sources of infxn-
   minimal ascites so unlikely SBP, no PNA on CXR.
   - treat UTI with Bactrim
   -Monitor MS
   # Fevers: source so far likely urine with +UA.  Cultures show E coli
   resistant to Cipro so swiched to Bactrim. CXR negative but now Sputum
   from [**3-13**] with GPC in pairs. CXR largely unchanged.  no ascites to be
   concerned for SBP.  LFTs elevated; but no e/o cholecystitis or
   cholangitis.  Hep panel neg but Hep B vaccinated. Pt with fever, chills
   today could be [**3-10**] GPC in lungs or withdrawl (? Withdrawl from opiates
   with tachycardia, tachypnea, fever, diarrhea, anxiety)
   - monitor fever curve
   - Bactrim for UTI
   - f/u cultures
   -Restart Vanco for GPCs in sputum
   - consider HIV test
   -send C diff
   -Rechk serum and urine tox this afternoon- nursing ? if visitor may
   have given something to pt this afternoon
   # Cirrhosis: unclear on complications (per pt) but BIli elevated at 10
   on admission. INR 1.4 . Cr 0.7. ? etiology- likely EtOH as hepatitis
   panel neg.  Also originally ? acute alcoholic hepatitis as well.
   Discriminant fx on admission 16 so no need for steroids today.
   - trend LFTs
   - give PPI for vague hx per pt of esophageal varices
   - guaiac all stools
   # Macrocytic Anemia: unclear etiology; could be GI bleed, other causes
   are B12/Folate def or ETOH BM suppresion; could be iron def. However,
   folate and B12 nl levels.  Iron nl and ferritin up so unlikely iron
   deficiency. Most likely ETOH. Bumped appropriately to 2 u PRBCs [**3-12**].
   Hct stable today at 28
   - guaiac all stools- currently neg but does have sign liquidy diarrhea
   - T&S active
   # Conjuctivitis: likely viral; but cannot r/o bacterial. significant
   injection and crusting
   - artificial tears QID
   - erthyromycin ointment QID x 5 days
   # Access: 2 18G, 1 16G
   # PPx: hep sc, PPI
   # Code: FULL
   # Dispo:  ICU
   # Comm:  Sister: [**Name (NI) 3870**] [**Name (NI) **] [**0-0-**] (H) [**Telephone/Fax (1) 3871**] (C)
   ICU Care
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2138-3-12**] 09:41 PM
   20 Gauge - [**2138-3-15**] 04:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2138-03-15 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   EtOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-13**] 08:00 AM
   Ciprofloxacin - [**2138-3-14**] 12:01 PM
   Bactrim (SMX/TMP) - [**2138-3-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2138-3-14**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-3-15**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Diarrhea, Lactulose withdrawn
   Flowsheet Data as of  [**2138-3-15**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 127 (101 - 127) bpm
   BP: 123/86(94) {96/45(60) - 135/93(102)} mmHg
   RR: 39 (23 - 48) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  3,000 mL
                                                                    400 mL
   PO:
                                                                  3,000 mL
                                                                    400 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                  1,850 mL
   Urine:
                                                                  2,035 mL
                                                                  1,850 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                    -35 mL
                                                                 -1,450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Agitation and hallucinosis overnight
   Labs / Radiology
   9.1 g/dL
   158 K/uL
   78 mg/dL
   0.6 mg/dL
   28 mEq/L
   2.4 mEq/L
   2 mg/dL
   101 mEq/L
   140 mEq/L
   28.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2138-3-12**]  10:22 PM
                             [**2138-3-13**]  04:15 AM
                             [**2138-3-13**]  09:09 AM
                             [**2138-3-13**]  01:49 PM
                             [**2138-3-13**]  02:15 PM
                             [**2138-3-13**]  03:00 PM
                             [**2138-3-13**]  03:14 PM
                             [**2138-3-14**]  04:19 AM
                             [**2138-3-15**]  04:36 AM
   WBC
   6.5
   6.8
   7.4
   Hct
   20.7
   27.4
   28.5
   28.1
   Plt
   129
   134
   158
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   TCO2
   33
   33
   31
   32
   Glucose
   84
   72
   95
   68
   78
   Other labs: PT / PTT / INR:15.1/30.7/1.3, ALT / AST:65/181, Alk Phos /
   T Bili:396/10.9, Amylase / Lipase:87/69, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:535 IU/L, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   41 yo female with history of EtOH abuse and now with successful
   extubation but with persistent delirium in the setting of CIWA
   management of EtOH withdrawl.  In the setting of a known history of
   cirrhsos whe did have Lactulose tried for aid in stabilization but
   resulted in diarhea out of proportion to change in mental status.
 CIRRHOSIS OF LIVER, ALCOHOLIC
   -Stable elevations
   -Will need Gi follow up
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Valium q 2 hours PRN for altered mental status
   -Thiamine/Foalte
   -Given persistent tremor and agitation she may well have multiple
   substances she is withdrawing from
   -Valium to continue at q 2 hours
   Respiratory Failure-
   -Extubated without event
   -O2 off
   Urinary Tract Infection-
   -Continue Bactrim
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-3-12**] 09:41 PM
   20 Gauge - [**2138-3-15**] 04:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2138-03-16 08:36:00 Physician Resident Progress Note
Chief Complaint: EtOH withdrawl
   24 Hour Events:
   -Pt persistently agitated with CIWAs to 15 Q 2 hrs with Valium 20mg PO
   Q 2 during the day requiring 1:1 staffing. Gave Haldol 2 IV in addition
   to 5 Valium IV  around 6p for control of agitation
   -Nursing concerned perhaps neice brought pt substances in afternoon.
   Rechecked evening serum and urine tox. Serum tox was negative. U tox
   still pending
   -Sx of fever, tachycardia, agitation, diarrhea c/w possible opiod
   withdrawl. Plan to give IV dilaudid overnight if sx persist
   particularly agitation
   - Started loperamide PRN for diarrhea. Sent C diff
   - Started neutraphos 2 pkt TID for phos to 0.9 in pm. Also repleted K
   and Mg
   -Bolused 1L in setting of diarrhea and tachycardia in afternoon
   -Ordered Hep A IgM with elevated LFTs and diarrhea
   - restarted Vanco with sputum with GPC from [**3-13**]. Continued to be
   febrile during the day
   -needs to d/c foley in am but with such high nursing requirements
   already, this wasn't done overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-3-14**] 12:01 PM
   Bactrim (SMX/TMP) - [**2138-3-14**] 08:00 PM
   Vancomycin - [**2138-3-16**] 07:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-3-15**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2138-3-16**] 12:54 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies fever, pain, abd pain . headache, nausea
   Flowsheet Data as of  [**2138-3-16**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 111 (104 - 127) bpm
   BP: 122/77(87) {100/57(63) - 138/106(128)} mmHg
   RR: 29 (23 - 53) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,850 mL
                                                                    500 mL
   PO:
                                                                  2,400 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,450 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    960 mL
   Urine:
                                                                  3,470 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    380 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1- not sure of date. Knows month and year. Not
   sure where she is , Movement: Purposeful, Tone: Normal, has resting
   tremor. No sign asterixis
   Labs / Radiology
   188 K/uL
   8.6 g/dL
   79 mg/dL
   0.7 mg/dL
   28 mEq/L
   2.8 mEq/L
   3 mg/dL
   103 mEq/L
   141 mEq/L
   26.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2138-3-13**]  04:15 AM
                             [**2138-3-13**]  09:09 AM
                             [**2138-3-13**]  01:49 PM
                             [**2138-3-13**]  02:15 PM
                             [**2138-3-13**]  03:00 PM
                             [**2138-3-13**]  03:14 PM
                             [**2138-3-14**]  04:19 AM
                             [**2138-3-15**]  04:36 AM
                             [**2138-3-15**]  02:09 PM
                             [**2138-3-16**]  04:02 AM
   WBC
   6.5
   6.8
   7.4
   6.7
   Hct
   20.7
   27.4
   28.5
   28.1
   26.7
   Plt
   129
   134
   158
   188
   Cr
   0.7
   0.6
   0.7
   0.6
   0.7
   TCO2
   33
   33
   31
   32
   Glucose
   72
   95
   68
   78
   85
   79
   Other labs: PT / PTT / INR:14.5/31.6/1.2, ALT / AST:56/139, Alk Phos /
   T Bili:372/9.4, Amylase / Lipase:87/69, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:460 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment: This is a 41 year-old female with a history of ETOH
   abuse/ETOH withdrawal, cirrhosis who presents with ETOH withdrawal and
   fevers
    Plan:
   # ETOH withdrawal: patient with significant ETOH history; has h/o
   withdrawal.  no seizures.  Received large amount of valium in ED for
   CIWAs>20.  Eventually required intubation [**3-12**] for airway protection.
   Extubated [**3-13**]. Now appears benzo intoxicated.
   - decr CIWA to Q 4hrs 5-10mg PO for now
   - SW on board
   - folate/thiamine/MVI PO
   -recheck pm lytes (has needed aggressive repletion)
   # AMS: likely in the setting of ETOH withdrawal and benzos.  Requiring
   intubation.  Unlikely  hepatic encephalopathy.  Also, infection with +
   UA. tox screen otherwise negative, no other evident sources of infxn-
   minimal ascites so unlikely SBP, no PNA on CXR.
   - treat UTI with Bactrim , GPC on sputum with vanco
   -Monitor MS
   - Of note, Haldol 2mg IV worked very well overnight for agitation
   # Fevers: source so far likely urine with +UA.  Cultures show E coli
   resistant to Cipro so swiched to Bactrim. CXR negative but now Sputum
   from [**3-13**] with GPC in pairs. CXR largely unchanged.  no ascites to be
   concerned for SBP.  LFTs elevated; but no e/o cholecystitis or
   cholangitis.  Hep panel neg but Hep B vaccinated. Pt with fever, chills
   [**3-15**] could be [**3-10**] GPC in lungs or withdrawl (? Withdrawl from opiates
   with tachycardia, tachypnea, fever, diarrhea, anxiety). Of note: serum
   and urine tox overnight [**3-15**] was negative.  C diff also neg [**3-15**]
   - monitor fever curve
   - Bactrim for UTI , Vanco for GPCs in sputum
   - f/u cultures
   - consider HIV test
   # Cirrhosis: unclear on complications (per pt) but BIli elevated at 10
   on admission. INR 1.4 . Cr 0.7. ? etiology- likely EtOH as hepatitis
   panel neg.  Also originally ? acute alcoholic hepatitis as well.
   Discriminant fx on admission 16 so no need for steroids today.
   - trend LFTs
   - give PPI for vague hx per pt of esophageal varices
   - guaiac all stools
   -f/u Hep A IgM
   # Macrocytic Anemia: unclear etiology; could be GI bleed, other causes
   are B12/Folate def or ETOH BM suppresion; could be iron def. However,
   folate and B12 nl levels.  Iron nl and ferritin up so unlikely iron
   deficiency. Most likely ETOH. Bumped appropriately to 2 u PRBCs [**3-12**].
   Hct stable today at 26
   - guaiac all stools- currently neg but does have sign liquidy diarrhea
   - T&S active
   # Conjuctivitis: likely viral; but cannot r/o bacterial. significant
   injection and crusting
   - artificial tears QID
   - erthyromycin ointment QID x 5 days
   # Access: 2 18G, 1 16G
   # PPx: hep sc, PPI
   # Comm:  Sister: [**Name (NI) 3870**] [**Name (NI) **] [**0-0-**] (H) [**Telephone/Fax (1) 3871**] (C)
   ICU Care
   Nutrition:  regular diet, replete lytes PRN
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2138-3-12**] 09:41 PM
   20 Gauge - [**2138-3-15**] 04:59 AM
   d/c foley today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:consider transfer to floor this afternoon but will need
   1 :1 sitter for safety

2138-03-16 10:04:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   haldol for agitation
   Sputum with GPC's from [**3-13**]
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-3-14**] 12:01 PM
   Bactrim (SMX/TMP) - [**2138-3-14**] 08:00 PM
   Vancomycin - [**2138-3-16**] 07:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-3-15**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2138-3-16**] 12:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-16**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 111 (104 - 127) bpm
   BP: 122/77(87) {100/57(63) - 138/106(128)} mmHg
   RR: 29 (23 - 53) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,850 mL
                                                                    500 mL
   PO:
                                                                  2,400 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,450 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    960 mL
   Urine:
                                                                  3,470 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    380 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed, Persistent dense delirium
tremor resting, no neck
   stiffness, no photophobia
   Labs / Radiology
   8.6 g/dL
   188 K/uL
   79 mg/dL
   0.7 mg/dL
   28 mEq/L
   2.8 mEq/L
   3 mg/dL
   103 mEq/L
   141 mEq/L
   26.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2138-3-13**]  04:15 AM
                             [**2138-3-13**]  09:09 AM
                             [**2138-3-13**]  01:49 PM
                             [**2138-3-13**]  02:15 PM
                             [**2138-3-13**]  03:00 PM
                             [**2138-3-13**]  03:14 PM
                             [**2138-3-14**]  04:19 AM
                             [**2138-3-15**]  04:36 AM
                             [**2138-3-15**]  02:09 PM
                             [**2138-3-16**]  04:02 AM
   WBC
   6.5
   6.8
   7.4
   6.7
   Hct
   20.7
   27.4
   28.5
   28.1
   26.7
   Plt
   129
   134
   158
   188
   Cr
   0.7
   0.6
   0.7
   0.6
   0.7
   TCO2
   33
   33
   31
   32
   Glucose
   72
   95
   68
   78
   85
   79
   Other labs: PT / PTT / INR:14.5/31.6/1.2, ALT / AST:56/139, Alk Phos /
   T Bili:372/9.4, Amylase / Lipase:87/69, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:460 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   41 yo female admit with EtOH abuse and withdrawl.  She now has
   persitent intermittent agitation and has had greatest response to
   Haldol with trials made. She has diarrhea persisting. but minimal
   concern for C. Diff.  This has been presumed to be related to withdrawl
   but any of the syndromes likely EtOH/narcotic withdrawl would be
   expected to be improving or stabilized at this point in her treatment
   course.  She retains a neurologic exam without a focal deficit and has
   had Thiamine replacement from the time of admission.  She does have UTI
   and pulmonary infection contributing to ongoing delirium, but again,
   minimal change to improvement.  She does have persistent low grade
   fevers with minimal evidence of persistent pulmonary infection
 PNEUMONIA, OTHER
minimal infiltrate on CXR
   -Vanco
   URINARY TRACT INFECTION-
   -Bactrim
 CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Thiamine/Folate/MVI
   -Will look to wean benzodiazepines
move to q 6 hours
   -Haldol PRN
   -Likely out of window for DT/Seizure but will need to follow exam
   -DELIRIUM-
   -Will need psych evaluation for overlying issue of possible primary
   pathology driving persistent altered mental status and may be most
   appropriate as EtOH withdrawl is clearing.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-3-12**] 09:41 PM
   20 Gauge - [**2138-3-15**] 04:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :TO Floor
   Total time spent: 33 minutes